US07511057B2
5-tert-Butyl-2-phenyl-2H-pyrazol-3-ylamine
N,N-Diisopropylethylamine (1.7 mL, 7.99 mmol) was added to a mixture of phenyl hydrazine hydrochloride (1.5 g, 10.39 mmol) and 4,4-dimethyl-3-oxopentane nitrile (1.0 g, 7.99 mmol) in ethanol (15 mL) and the mixture was heated under reflux for 18 hours. The cooled mixture was then concentrated to low volume and partitioned between ethyl acetate and saturated sodium hydrogen carbonate solution. The organic layer was separated, dried over sodium sulfate and concentrated in vacuo. The residue was purified by column chromatography on silica gel, eluting with heptanes:ethyl acetate, 75:25, to afford the title compound as a pale orange oil that crystallised on standing (1.21 g, 70% yield).

reactant | N,N-Diisopropylethylamine | 7.99 mmol, 1.7 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenyl hydrazine hydrochloride | 10.39 mmol, 1.5 g | Cl.C1(=CC=CC=C1)NN
reactant | 4,4-dimethyl-3-oxopentane nitrile | 7.99 mmol, 1.0 g | CC(C(CC#N)=O)(C)C | C7H11NO
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 5-tert-Butyl-2-phenyl-2H-pyrazol-3-ylamine | 70% yield | C(C)(C)(C)C=1C=C(N(N1)C1=CC=CC=C1)N | C13H17N3
